US08614220B2
8-[5-(4-Methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (A51B8C1Z)
Tris(dibenzilideneacetone)dipalladium, Pd2(dba)3, (2.3 g, 2.5 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl (950 mg, 2.4 mmol), 8-[5-bromo-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (14.8 g, 31.54 mmol) in THF (160 mL) were charged in a round-bottom flask flushed with argon. The flask was evacuated and backfilled with argon. LiN(TMS)2 solution (1M in THF, 630 mL) and N-methylpiperazine (69 mL, 50.64 mmol) were added and the reaction mixture refluxed for 1 h. The reaction mixture was then allowed to cool to room temperature and filtered through a pad of celite. The organic phase was concentrated. The crude solid was purified by flash chromatography on silica gel (eluant: DCM/MeOH 95/5) to afford 9.2 g (60% yield) of the title compound.

reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl | 2.4 mmol, 950 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 8-[5-bromo-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 31.54 mmol, 14.8 g | BrC=1C=CC(=C(C1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3)C(=O)N)OC(F)(F)F | C17H12BrF3N6O2
reactant | LiN(TMS)2 | 1M, 630 mL | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | N-methylpiperazine | 50.64 mmol, 69 mL | CN1CCNCC1 | C5H12N2
solvent | THF | 160 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 2.5 mmol, 2.3 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-[5-(4-Methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 9.2 g, 60% yield | CN1CCN(CC1)C=1C=CC(=C(C1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3)C(=O)N)OC(F)(F)F | C22H23F3N8O2
